US07439393B2
xi) N-(3-{[2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]methyl}phenyl)-N′-phenylurea
A solution of (5R)-3-(6-{2-[(3-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.057 g) in dichloromethane (2 ml) was treated with phenyl isocyanate (0.020 g) and the mixture stirred under nitrogen at 20° C. for 2 h. Isopropanol (5 ml) was added to quench excess isocyanate, and the mixture stirred for 30 min before leaving to stand for 15 h. The solvents were removed in vacuo to give a residue which was purified by SPE. Elution with a stepped gradient of eluants from cyclohexane to cyclohexane-EtOAc (9:1) and onwards to EtOAc followed by solvent evaporation in vacuo gave the title compound (0.062 g). LCMS RT=3.70 min, ES+ve 618 (MH)+.

reactant | (5R)-3-(6-{2-[(3-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.057 g | NC=1C=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C28H38N2O6
reactant | phenyl isocyanate | 0.020 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(3-{[2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]methyl}phenyl)-N′-phenylurea | 0.062 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC=CC=C2)C | C35H43N3O7
